US08198311B2
Methyl 2-(4-(1-(4-fluorophenyl)-1H-indazol-5-yl)tetrahydro-2H-pyran-4-yl)-2-methylpropanoate (155 mg, 0.40 mmol) was dissolved in 2.5 mL pyridine in a microwave reactor and KCN (104 mg, 1.6 mmol) and LiI (214 mg, 1.6 mmol) were added. The reactor was sealed and heated to 170° C. for 60 minutes. The reaction was purified directly by HPLC to give 2-(4-(1-(4-fluorophenyl)-1H-indazol-5-yl)tetrahydro-2H-pyran-4-yl)-2-methylpropanoic acid (100 mg, 67%). (M+H)+=383.

reactant | Methyl 2-(4-(1-(4-fluorophenyl)-1H-indazol-5-yl)tetrahydro-2H-pyran-4-yl)-2-methylpropanoate | 0.40 mmol, 155 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C1(CCOCC1)C(C(=O)OC)(C)C | C23H25FN2O3
reactant | KCN | 1.6 mmol, 104 mg | [C-]#N.[K+]
reactant | LiI | 1.6 mmol, 214 mg | [Li+].[I-]
solvent | pyridine | 2.5 mL | N1=CC=CC=C1 | C5H5N
product | 2-(4-(1-(4-fluorophenyl)-1H-indazol-5-yl)tetrahydro-2H-pyran-4-yl)-2-methylpropanoic acid | 100 mg, 67% | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C1(CCOCC1)C(C(=O)O)(C)C | C22H23FN2O3
